US04335209
In 50 g of Triton X-100 was dissolved 20 g of indole, and 36 g of DL-serine, 1 g of Na2SO3, 100 mg of pyridoxal phosphate and the above-mentioned two kinds of cells collected by centrifugal separation were added to the solution so that the entire volume was 1 l. The reaction liquid was shaken at a temperature of 30° C. and pH of 8.5 for 72 hours to effect reaction. After the reaction, 28.5 g of L-tryptophan was formed and accumulated in the reaction liquid (the yield was 41% based on serine).

reactant | indole | 20 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | DL-serine | 36 g | NC(CO)C(=O)O | C3H7NO3
solvent | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
catalyst | Na2SO3 | 1 g | [O-]S(=O)[O-].[Na+].[Na+]
catalyst | pyridoxal phosphate | 100 mg | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
product | L-tryptophan | 28.5 g, yield was 41% | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
